US07491735B2
To a cold (−90° C.) solution of 3-bromo pyridine (741 mg, 4.7 mmol) in freshly distilled THF (18 ml) was added LDA (2.0M, 2.6 mL, 5.2 mmol). The mixture was stirred under N2 for 20 min. A solution of 4-formyl-piperidine-1-carboxylic acid tert-butyl ester (500 mg, 2.34 mmol) was added slowly to maintain the bath temperature below −80° C. The reaction was continued at below −80° C. for 30 min, warmed to −20° C. within 30 min and quenched with saturated aqueous NH4Cl (10 mL). Work-up and purification gave 4-[(3-bromo-pyridin-4-yl)-hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester (610 mg, 70%) as colourless oil.

reactant | 3-bromo pyridine | 4.7 mmol, 741 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | LDA | 5.2 mmol, 2.0M, 2.6 mL | [Li+].CC(C)[N-]C(C)C
reactant | 4-formyl-piperidine-1-carboxylic acid tert-butyl ester | 2.34 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | 4-[(3-bromo-pyridin-4-yl)-hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 610 mg, 70% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(O)C1=C(C=NC=C1)Br | C16H23BrN2O3
